US09102602B2
Triethylamine (55.8 μL, 0.4 mmol) and thiocarbonyldiimidazole (46.3 mg, 0.26 mmol) were added to a methylene chloride solution (0.4 mL) of 4-amino-2-nitrobenzoic acid (36.4 mg, 0.2 mmol) at room temperature, followed by stirring at room temperature for 10 minutes. The reaction mixture was dissolved in ethyl acetate and washed with 1 M hydrochloric acid, the organic layer was separated, and then the organic layer was dried over magnesium sulfate. Thereafter, filtration and concentration under reduced pressure to dryness were carried out to obtain 4-isothiocyanato-2-nitrobenzoic acid as a colorless solid (40 mg, yield: 89%, HPLC purity: 96.4%)

reactant | Triethylamine | 0.4 mmol, 55.8 μL | C(C)N(CC)CC | C6H15N
reactant | thiocarbonyldiimidazole | 0.26 mmol, 46.3 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | methylene chloride | 0.4 mL | C(Cl)Cl | CH2Cl2
reactant | 4-amino-2-nitrobenzoic acid | 0.2 mmol, 36.4 mg | NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-isothiocyanato-2-nitrobenzoic acid | yield: 89% | N(=C=S)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H4N2O4S
